US07329662B2
2-Phenyl-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-phenyl-4,4,4-trifluoro-butane-1,3-dione (216 mg, 1.0 mmol), prepared from commercially available acetophenone according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (107 mg, 37%). MS (ISP) 289.0 [(M+H)+]; mp 202° C.

reactant | 1-phenyl-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 216 mg | C1(=CC=CC=C1)C(CC(C(F)(F)F)=O)=O | C10H7F3O2
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-Phenyl-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 107 mg, 37% | C1(=CC=CC=C1)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N | C14H7F3N4
